US08071643B2
Step B. ((6R,8R)-6-Mercapto-1,4-dioxa-spiro[4.5]dec-8-yl)-carbamic acid tert-butyl ester+(6S,8S) Diastereomer
A mixture of thiobenzoic acid S-((6R,8R)-8-tert-butoxycarbonylamino-1,4-dioxa-spiro[4.5]dec-6-yl) ester+(6S,8S) diastereomer (695 mg, 1.77 mmol) and hydrazine (80% aq. solution, 0.10 ml, 2.65 mmol) in 7 ml of dichloromethane was stirred for 24 hours. The mixture was diluted with dichloromethane and washed with 1M aqueous HCl, dried and stripped of the solvent to obtain the title compound (490 mg, 95% yield) as yellow-gray oil.

reactant | thiobenzoic acid S-((6R,8R)-8-tert-butoxycarbonylamino-1,4-dioxa-spiro[4.5]dec-6-yl) ester | C(C)(C)(C)OC(=O)N[C@H]1C[C@H](C2(OCCO2)CC1)SC(C1=CC=CC=C1)=O | C20H27NO5S
reactant | hydrazine | 2.65 mmol, 0.10 ml | NN | H4N2
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | ((6R,8R)-6-Mercapto-1,4-dioxa-spiro[4.5]dec-8-yl)-carbamic acid tert-butyl ester | 490 mg, 95% yield | C(C)(C)(C)OC(N[C@H]1C[C@H](C2(OCCO2)CC1)S)=O | C13H23NO4S
